US06555577B1
(E)-(S)-Ethyl 2-Ethoxy-3-{4-[3-(4′-fluoro-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-propionate
The title compound (849 mg, 89%) was prepared as a colourless gum from (E)-3-(4′-fluoro-biphenyl-4-yl)-but-2-en-1-ol (500 mg, 2.06 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (516 mg, 2.17 mmol) by a procedure analogous to that described in example 52c.

reactant | (E)-3-(4′-fluoro-biphenyl-4-yl)-but-2-en-1-ol | 2.06 mmol, 500 mg | FC1=CC=C(C=C1)C1=CC=C(C=C1)/C(=C/CO)/C | C16H15FO
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 2.17 mmol, 516 mg | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (E)-(S)-Ethyl 2-Ethoxy-3-{4-[3-(4′-fluoro-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-propionate | 849 mg, 89% | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OC\C=C(/C)\C1=CC=C(C=C1)C1=CC=C(C=C1)F | C29H31FO4
